Delay

V1 1 0 5
V2 2 0 pulse (0 5 5n 10p 10p 5n 10n)
* s1o3 is 6
* s2o3 is 10
* s3o3 is 14
*Mnumber d g s b model W=w L=l 
M1 3 2 0 0 NMOS W=1u L=0.09u
M2 3 2 1 1 PMOS W=1u L=0.09u

R1 3 4 1
C1 4 0 0.1p
 
M3 5 4 0 0 NMOS W=10u L=0.9u
M4 5 4 1 1 PMOS W=10u L=0.9u

M5 6 5 0 0 NMOS W=10u L=0.9u
M6 6 5 1 1 PMOS W=10u L=0.9u
C4 6 0 1f

*-----------S2-----------------------
M7 7 6 0 0 NMOS W=1u L=0.09u
M8 7 6 1 1 PMOS W=1u L=0.09u

R2 7 8 1
C2 8 0 0.1p

M9 9 8 0 0 NMOS W=10u L=0.9u
M10 9 8 1 1 PMOS W=10u L=0.9u

M11 10 9 0 0 NMOS W=10u L=0.9u
M12 10 9 1 1 PMOS W=10u L=0.9u

*-------------S3---------------------
M13 11 10 0 0 NMOS W=1u L=0.09u
M14 11 10 1 1 PMOS W=1u L=0.09u

R3 11 12 1
C3 12 0 0.1p

M15 13 12 0 0 NMOS W=10u L=0.9u
M16 13 12 1 1 PMOS W=10u L=0.9u

M17 14 13 0 0 NMOS W=10u L=0.9u
M18 14 13 1 1 PMOS W=10u L=0.9u

.tran 1p 15n